US05071999
c) Ethyl 2-benzyl-6-methyl-2,7-diazabicyclo[3.3.0]-octane-7-carboxylate
11.6 g (62.6 mmol) of ethyl N-(1-buten-3-yl)-N -(2-oxoethyl)-carbamate and 10.4 g (62.6 mmol) of N -benzylglycine in 170 ml of toluene are heated under reflux overnight in a water separator. The mixture is concentrated and the residue is distilled.

reactant | ethyl N-(1-buten-3-yl)-N -(2-oxoethyl)-carbamate | 62.6 mmol, 11.6 g | C=CC(C)N(C(OCC)=O)CC=O | C9H15NO3
reactant | N -benzylglycine | 62.6 mmol, 10.4 g | C(C1=CC=CC=C1)NCC(=O)O | C9H11NO2
reactant | water | O | H2O
solvent | toluene | 170 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-benzyl-6-methyl-2,7-diazabicyclo[3.3.0]-octane-7-carboxylate | C(C1=CC=CC=C1)N1C2CN(C(C2CC1)C)C(=O)OCC | C17H24N2O2
